US04130566
Preparation of 5-acetyl-2-thienylacetic acid methyl ester
A mixture of 2-thienylacetic acid methyl ester, 1.41 g. (0.01 mol) and acetic anhydride, 4.2 g. (0.04 mol) was heated at 70°-80° C. and 0.2 g. of 85% H3PO4 was added dropwise with mechanical stirring. The reaction was somewhat exothermic but cooling was not necessary. The mixture was maintained between 70°-80° C. for 3 hrs., and then, poured onto ice-water followed by extraction with ether. Organic layer was washed with water several times, dried over anhyd. MgSO4 and evaporated. The residue was distilled at 2 mmHg and a fraction between 160° C. and 172° C. was collected. This material was gradually crystallized and could be recrystallized from the mixture of light-petroleum and benzene. m.p. 43°-44° C. Yield; 1.39 g. (76.5%)

reactant | 2-thienylacetic acid methyl ester | COC(CC=1SC=CC1)=O | C7H8O2S
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | H3PO4 | OP(=O)(O)O | H3O4P
product | 5-acetyl-2-thienylacetic acid methyl ester | COC(CC=1SC(=CC1)C(C)=O)=O | C9H10O3S
